US07396930B2
(a) 1-bromo-2-[(tert-butylthio)methyl]benzene
36.6 g (406 mmol) of tert-butylmercaptan were added to a mixed solution of 36.5 g (438 mmol) of 48% aqueous sodium hydroxide solution and 400 ml of methanol under a nitrogen atmosphere at room temperature. A solution of 99.5 g (398 mmol) of 2-bromobenzylbromide in 100 ml of methanol were dropped into this solution below 40° C. After stirring for 30 minutes at 40° C. 1000 ml of toluene and 500 ml of water were sequentially added to the reaction solution. The aqueous layer was separated, and the organic layer was sequentially washed with 500 ml of 5% aqueous sodium hydroxide solution and 500 ml of water. After drying the organic layer with magnesium sulfate, the solvent was distilled off to obtain 300 ml of residue, which was used in the next step.

reactant | tert-butylmercaptan | 406 mmol, 36.6 g | C(C)(C)(C)S | C4H10S
reactant | sodium hydroxide | 438 mmol, 36.5 g | [OH-].[Na+]
reactant | 2-bromobenzylbromide | 398 mmol, 99.5 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 400 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | 1-bromo-2-[(tert-butylthio)methyl]benzene | 300 ml | BrC1=C(C=CC=C1)CSC(C)(C)C | C11H15BrS
